US06441005B1
5-(S)-Acetamidomethyl-3-[4′-(N-methoxyamidino)-3′-fluorophenyl]oxazolidine-2-one
Iodomethane (0.02 ml, 0.39 mmol) was added to a solution of 5-(S)-acetamidomethyl-3-[4′-(N-hydroxyamidino)-3′-fluorophenyl]oxazolidine-2-one (0.080 g, 0.26 mmol) and tert-butyl-1,1,3,3-tetramethylguanidine (0.058 ml, 0.39 mmol) in DMF (1.0 ml), and the mixture was stirred at r.t. overnight. Solvent was removed under vacuum, and the crude product purified by silica gel PTLC (10% methanol in DCM). HPLC: Rt 3.6 min. MS (m/z): [M+H]+=325.

reactant | Iodomethane | 0.39 mmol, 0.02 ml | IC | CH3I
reactant | 5-(S)-acetamidomethyl-3-[4′-(N-hydroxyamidino)-3′-fluorophenyl]oxazolidine-2-one | 0.26 mmol, 0.080 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(NO)=N)F | C13H15FN4O4
reactant | tert-butyl-1,1,3,3-tetramethylguanidine | 0.39 mmol, 0.058 ml | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | 5-(S)-Acetamidomethyl-3-[4′-(N-methoxyamidino)-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(NOC)=N)F | C14H17FN4O4
